US05859159
Preparation of 1-Butene-1-Hexene Copolymer
The continuous polymerization was conducted as for Example 24, except that no propylene was fed to the stirred mixing tank and 1-hexene was fed directly to the reactor, such that the reactor contained a 1-hexene-containing simulated Raffinate II reaction mixture. The pre-reaction mixture in the mixing tank contained simulated Raffinate II having the composition described for Example 26. The process conditions and results are shown in Table 3. The polymer of Examples 29, 30, 32, and 33 were tested for and found to have oil solubility; a 2 wt. % solution of the polymer product in S150N mineral oil formed a haze-free solution.

reactant | propylene | C=CC | C3H6
reactant | 1-hexene | C=CCCCC | C6H12
product | 1-Butene 1-Hexene | C=CCC.C=CCCCC | InChI=1S/C6H12.C4H8/c1-3-5-6-4-2;1-3-4-2/h3H,1,4-6H2,2H3;3H,1,4H2,2H3
